US08030311B2
Step 56.5: (4-Amino-2,6-dichloro-phenyl)-acetic acid methyl ester
A suspension of (2,6-dichloro-4-nitro-phenyl)-acetic acid methyl ester (12.7 g, 47.13 mmol) and Raney Nickel (3 g) in MeOH (500 mL) is stirred for 3.5 h at rt, under a hydrogen atmosphere. The reaction mixture is filtered through a pad of celite and concentrated to afford the title compound as a yellow solid: ESI-MS: 232.0/234.0 [M-H]−; tR=3.11 min (System 2).

reactant | (2,6-dichloro-4-nitro-phenyl)-acetic acid methyl ester | 47.13 mmol, 12.7 g | COC(CC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl)=O | C9H7Cl2NO4
catalyst | Raney Nickel | 3 g | [Ni] | Ni
solvent | MeOH | 500 mL | CO | CH4O
product | (4-Amino-2,6-dichloro-phenyl)-acetic acid methyl ester | COC(CC1=C(C=C(C=C1Cl)N)Cl)=O | C9H9Cl2NO2
